US06635657B1
E. N-(5-Chloropyridin-2-yl)-5-(methylsulfonylamino)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide Dihydrochloride
A solution of 5-amino-N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide (90 mg, 0.21 mmol)and diisopropyl ethylamine (0.036 mL) in methylene chloride (2 mL) was treated with methanesulfonyl chloride (0.016 mL, 0.21 mmol). After 0.25 h, the mixture was concentrated and the residue partitioned between EtOAc and water. The aqueous layer was treated with 1 N NaOH and the resulting solid collected by filtration. The material was further purified by RPHPLC yielding the title compound as a hydrochloride salt.

reactant | 5-amino-N-(5-chloropyridin-2-yl)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide | 0.21 mmol, 90 mg | NC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCN(CC1)C1=CC=NC=C1 | C23H25ClN6O
reactant | diisopropyl ethylamine | 0.036 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.21 mmol, 0.016 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-5-(methylsulfonylamino)-2-[1-(4-pyridinyl)piperidin-4-ylmethylamino]benzamide Dihydrochloride | Cl.Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)NS(=O)(=O)C)NCC1CCN(CC1)C1=CC=NC=C1)=O | InChI=1S/C24H27ClN6O3S.2ClH/c1-35(33,34)30-19-3-4-22(21(14-19)24(32)29-23-5-2-18(25)16-28-23)27-15-17-8-12-31(13-9-17)20-6-10-26-11-7-20;;/h2-7,10-11,14,16-17,27,30H,8-9,12-13,15H2,1H3,(H,28,29,32);2*1H
